US04190431
1-Methyl-3-(3'-nitro-4'-methylphenyl)-3-hydroxyurea (11 g; 0.049 mole) was dissolved in dioxane (80 ml.) and mixed with a 2 N aqueous sodium hydroxide (28.5 ml; 0.057 mole). Ethyl chloroformate (5.2 ml; 0.054 mole) was added dropwise at 10°-15° C. with stirring and the stirring continued for about 1/2 hour after the addition was completed. The product which precipitated as formed was removed by filtration, washed with water and dried. This product was recrystallized from methanol and dried under vacuum to yield 2-(3'-nitro-4'-methylphenyl)-4-methyl-1,2,4-oxadiazolidine-3,5-dione as yellow crystals melting 80°-81° C. and having the following elemental analysis as calculated for C10H9N3O5 :

reactant | 1-Methyl-3-(3'-nitro-4'-methylphenyl)-3-hydroxyurea | 0.049 mole, 11 g | CNC(=O)N(O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H11N3O4
reactant | sodium hydroxide | 0.057 mole, 2 N, 28.5 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.054 mole, 5.2 ml | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2-(3'-nitro-4'-methylphenyl)-4-methyl-1,2,4-oxadiazolidine-3,5-dione | [N+](=O)([O-])C=1C=C(C=CC1C)N1OC(N(C1=O)C)=O | C10H9N3O5
